US08252833B2
Ethyl (4-amino-3,5-difluorophenyl)acetate
Diethyl (4-amino-3,5-difluorophenyl)propanedioate (0.770 g, 2.68 mmol) was dissolved in ethanol (50 ml) and treated with sodium hydroxide (0.107 g, 2.68 mmol) in water (1.5 ml). This was heated to 90° C. for 55 minutes. Further sodium hydroxide (0.016 g, 0.40 mmol) was added to the reaction and heating continued for 15 minutes. The mixture was cooled to room temperature and evaporated. This was acidified with 2N HCl (20 ml) and extracted ×2 with ethyl acetate (25 ml). The combined organics were washed with brine (50 ml), dried over magnesium sulphate, filtered and evaporated to give the title compound as a pale brown oil (0.610 mg, 2.84 mmol, >100%). LC/MS: Rt=2.52, [MH]+ 216.

reactant | Diethyl (4-amino-3,5-difluorophenyl)propanedioate | 2.68 mmol, 0.770 g | NC1=C(C=C(C=C1F)C(C(=O)OCC)C(=O)OCC)F | C13H15F2NO4
reactant | sodium hydroxide | 2.68 mmol, 0.107 g | [OH-].[Na+]
reactant | sodium hydroxide | 0.40 mmol, 0.016 g | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 1.5 ml | O | H2O
product | Ethyl (4-amino-3,5-difluorophenyl)acetate | 2.84 mmol, 0.610 mg, >100% | NC1=C(C=C(C=C1F)CC(=O)OCC)F | C10H11F2NO2
